
.lib "sky130_fd_pr\models\sky130.lib.spice" tt

.include CMOS_Inv.sub

xM2  Q nQ virtual_GND virtual_GND sky130_fd_pr__nfet_01v8 w=.42 l=.5
xM1  Q nQ virtual_VDD virtual_VDD sky130_fd_pr__pfet_01v8 w=1 l=0.5
xM4  nQ Q virtual_GND virtual_GND sky130_fd_pr__nfet_01v8 w=.42 l=.5
xM3  nQ Q virtual_VDD virtual_VDD sky130_fd_pr__pfet_01v8 w=1 l=0.5
xM6  nBL WL nQ GND sky130_fd_pr__nfet_01v8 w=.42 l=.5
xM5  BL WL Q GND sky130_fd_pr__nfet_01v8 w=.42 l=.5
xM7  virtual_VDD nCLK VDD body_P sky130_fd_pr__pfet_01v8 w=1 l=0.5
xM8  virtual_GND CLK GND body_N sky130_fd_pr__nfet_01v8 w=.42 l=.5

X1  VDD CLK nCLK CMOS_Inv		

Vdd VDD 0 1.8

Vclk CLK 0 pulse(0 1.8 0s 0s 0s 5us 10us)
Vbl BL 0 pulse(1.8 0 0s 0s 0s 15us 30us)
Vnbl nBL 0 pulse(0 1.8 0s 0s 0s 15us 30us)
Vwl WL 0 pulse(0 1.8 0s 0s 0s 5us 20us)

Vn body_N 0 -0.5
Vp body_P 0 2.3

.tran 0.01us 120us

.control
run

plot V(CLK)
plot V(WL)
plot V(BL)
plot V(Q)
plot V(nQ)

.endc

.end


.end
